US07253165B2
Synthesis of [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-benzyl-amine (Scheme III, Compound 1b)
The title compound is prepared from 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene, benzylamine, potassium carbonate and acetonitrile essentially as described above in Example 118 except that the column chromatography is performed with a graded solvent mixture from 100% ethyl acetate to 10% methanol in ethyl acetate. Purity by LC/MS=98%, [M+H]+=374.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-benzo[b]thiophene | BrCCCOC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C17H15BrOS
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | [3-(4-benzo[b]thiophen-3-yl-phenoxy)-propyl]-benzyl-amine | S1C2=C(C(=C1)C1=CC=C(OCCCNCC3=CC=CC=C3)C=C1)C=CC=C2 | C24H23NOS
